US07196229B2
A few drops of dimethylformamide were added to a solution of 63 g (0.22 mol) of 2-methyl-3,4-di(methylsulfonyl)benzoic acid in 550 ml of toluene, and 36 g (0.3 mol) of thionyl chloride were then added dropwise. The reaction mixture was heated at reflux for 1.5 hours. After cooling, the reaction mixture was concentrated. This gave 62 g (93% yield) of 2-methyl-3,4-di(methylsulfonyl)benzoyl chloride as a beige solid.

reactant | 2-methyl-3,4-di(methylsulfonyl)benzoic acid | 0.22 mol, 63 g | CC1=C(C(=O)O)C=CC(=C1S(=O)(=O)C)S(=O)(=O)C | C10H12O6S2
reactant | thionyl chloride | 0.3 mol, 36 g | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | A few drops | CN(C=O)C | C3H7NO
solvent | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3,4-di(methylsulfonyl)benzoyl chloride | 62 g, 93% yield | CC1=C(C(=O)Cl)C=CC(=C1S(=O)(=O)C)S(=O)(=O)C | C10H11ClO5S2
